US04976770
n-Butoxyethyl 12H-Dibenzo[d,g][1,3]dioxocin-6-carboxylate
Crude 12H-dibenzo[d,g][1,3]dioxocin-6-carbonyl chloride (4.8 g, 17.5 mmol) is dissolved in toluene and treated with a solution of 2-butoxyethanol (2.77 ml, 21 mmol) and 5 ml of triethylamine in toluene at 0° C. under argon. The mixture is heated at reflux for 2 hours and then cooled to room temperature The mixture is poured into 150 ml of water and extracted with 4×100 ml of ethyl acetate. The organic solution is washed with 5 percent hydrochloric acid, 5 percent sodium hydroxide and then brine, dried with magnesium sulfate and filtered. The solvent is removed to leave a yellow liquid which is chromatographed on dry column silica gel, using ethyl ether/hexane (1:2) as the solvent, to give a yellowish oil (4.3 g, 69 percent) An analytically pure material is obtained by using prep thin layer chromatography. IR (neat) 1770, 1582 cm-1. 1H NMR (CDCl3) δ 0.75-1.3 (m, 3H, CH3), 1.2-2.0 (m, 4H, CH2), 3.3-4.0 (m, 5H, OCH2 and benzylic), 4.4-4.9 (m, 3H, OCOCH2 and benzylic), 5.6 (s, 1H, CH), 6.9-7.5 (m, 8H, aromatic).

reactant | 12H-dibenzo[d,g][1,3]dioxocin-6-carbonyl chloride | 17.5 mmol, 4.8 g | C1=CC=CC=2OC(OC3=C(CC21)C=CC=C3)C(=O)Cl | C15H11ClO3
reactant | 2-butoxyethanol | 21 mmol, 2.77 ml | C(CCC)OCCO | C6H14O2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | water | 150 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | n-Butoxyethyl 12H-Dibenzo[d,g][1,3]dioxocin-6-carboxylate | 4.3 g, 69 percent | C1=CC=CC=2OC(OC3=C(CC21)C=CC=C3)C(=O)OCCOCCCC | C21H24O5
